US06538010B1
5-Iodo-3-nitro-2-fluoropyridine (1.739 g, 6.49 mmol), ethanol (13 mL), water (2 mL), and concentrated HCl (0.20 mL) were added to a 25 mL round bottom flask and allowed to stir. Iron (3.6 g, 64.4 mmol) was added in portions to the reaction followed by heating at 80° C. for 30 min. The iron was then removed and washed with ethanol over a fritted filter while the ethanol washings were concentrated under reduced pressure. The residue was purified by flash chromatography using 1:2 hexane:ethyl acetate as eluent to give 5-Iodo-2-fluoro-3-aminopyridine as a colorless solid (53%, 0.821 g).

reactant | 5-Iodo-3-nitro-2-fluoropyridine | 6.49 mmol, 1.739 g | IC=1C=C(C(=NC1)F)[N+](=O)[O-] | C5H2FIN2O2
reactant | ethanol | 13 mL | C(C)O | C2H6O
reactant | HCl | 0.20 mL | Cl | ClH
catalyst | Iron | 64.4 mmol, 3.6 g | [Fe] | Fe
solvent | water | 2 mL | O | H2O
product | 5-Iodo-2-fluoro-3-aminopyridine | 0.821 g, 53% | IC=1C=C(C(=NC1)F)N | C5H4FIN2
